US04666925
A solution of 5-chloro-1-indanone (3.59 g) in anhydrous tetrahydrofuran (40 ml) was added to a solution of isopropyl magnesium chloride (103 ml, 2M ethereal solution) under nitrogen at a rate to produce gentle refluxing. After the addition, the reaction solution was further stirred at room temperature for 11/4 hr, then poured into water (200 ml) and extracted with diethyl ether (3×150 ml). The combined ether solutions was washed with water, and condensed to an oil. This oil dissolved in benzene (250 ml) with a catalytic amount of p-toluenesulfonic acid was refluxed for 1.5 hr and then poured into water (200 ml). A few drops of diethylamine were added. The aqueous solution was separated and extracted with diethyl ether (3×100 ml). The combined organic phases were washed sequentially with dilute hydrochloric acid, saturated sodium bicarbonate solution and water, then dried (MgSO4) and condensed under reduced pressure. The residue was purified on a flash column (eluted with 5% ether in hexane) to give 6-chloro-3-isopropyl-1H-indene (2.94 g).

reactant | 5-chloro-1-indanone | 3.59 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | isopropyl magnesium chloride | 2M, 103 ml | C(C)(C)[Mg]Cl
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-chloro-3-isopropyl-1H-indene | 2.94 g | ClC1=CC=C2C(=CCC2=C1)C(C)C | C12H13Cl
